US07855225B2
To a solution of 180 mg of (2E)-3-[1-(phenylsulfonyl)-1H-indol-2-yl]acrylic acid in 3 mL of ethanol and 5 mL of methanol, 50 mg of 10% palladium-carbon (wet, water content 53%) was added, and the resulting mixture was stirred under hydrogen atmosphere (1 atm) at room temperature for 2 hours. The catalyst was removed from the solution, the solvent was evaporated under reduced pressure, and the residue was washed with ether to obtain 90 mg of 3-[1-(phenylsulfonyl)-1H-indol-2-yl]propanoic acid as a white solid. FAB−: 328

reactant | (2E)-3-[1-(phenylsulfonyl)-1H-indol-2-yl]acrylic acid | 180 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)/C=C/C(=O)O | C17H13NO4S
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 3-[1-(phenylsulfonyl)-1H-indol-2-yl]propanoic acid | 90 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)CCC(=O)O | C17H15NO4S
